US07071177B2
A solution of 4-[(2-methylthio-ethyl)-(4-fluoro-benzoyl)-amino]-benzenesulfonamide (0.32 g, 0.88 mmol), acetyl chloride (0.069 mL, 76 mg, 0.97 mmol), and Et3N (0.13 mL, 97 mg, 0.96 mmol) in CH2Cl2 (9 mL) was heated at reflux for 2 h. After cooling, the mixture was evaporated in vacuo, and the residue was purified by MPLC (CH2Cl2 to 60:40 CH2Cl2/EtOAc) to afford 0.29 g (81%) of 4-[(2-methylthio-ethyl)-(4-fluoro-benzoyl)-amino]-N-acetyl-benzenesulfonamide as a colorless glass; 1H NMR δ 2.03 (s, 3H), 2.15 (s, 3H), 2.77 (m, 2H), 4.15 (m, 2H), 6.90 (dd, 2H, J=7.5, 7.5), 7.24 (d, 2H, J=9.0), 7.32 (dd, 2H, J=3.0, 9.0), 7.92 (d, 2H, J=9.0), 9.1 (br s, 1H).

reactant | 4-[(2-methylthio-ethyl)-(4-fluoro-benzoyl)-amino]-benzenesulfonamide | 0.88 mmol, 0.32 g | CSCCN(C1=CC=C(C=C1)S(=O)(=O)N)C(C1=CC=C(C=C1)F)=O | C16H17FN2O3S2
reactant | acetyl chloride | 0.97 mmol, 0.069 mL, 76 mg | C(C)(=O)Cl | C2H3ClO
reactant | Et3N | 0.96 mmol, 0.13 mL, 97 mg | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 9 mL | C(Cl)Cl | CH2Cl2
product | 4-[(2-methylthio-ethyl)-(4-fluoro-benzoyl)-amino]-N-acetyl-benzenesulfonamide | 0.29 g, 81% | CSCCN(C1=CC=C(C=C1)S(=O)(=O)NC(C)=O)C(C1=CC=C(C=C1)F)=O | C18H19FN2O4S2
